US08420629B2
Step 3. tert-butyl 3-(fluoromethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate
To a mixture of tert-butyl 3-[fluoro(phenylsulfonyl)methyl]-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate (0.312 g, 0.485 mmol) and disodium hydrogen phosphate (1.38 g, 9.71 mmol) in methanol (7.5 mL, 180 mmol) was added sodium mercury amalgam (2.17 g, 9.71 mmol), under nigtrogen, at −20° C. The reaction was stirred at −20 to 0° C. for 1 h, diluted with EtOAc, then quenched with sat. ammonium chloride. The mixture was filtered through Celite and the solid collected was treated with elemental sulfur powder to destroy the mercury residue. The filtrate layers were separated and the organic layers were washed with brine, dried over sodium sulfate and evaporated. The residue was purified on silica gel, eluting with 0 to 80% EtOAc in hexane, to give the desired product (120 mg, 49.2%). LCMS calculated for C24H36FN6O3Si(M+H)+: m/z=503.3. Found: 503.2.

reactant | tert-butyl 3-[fluoro(phenylsulfonyl)methyl]-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 0.485 mmol, 0.312 g | FC(C1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)S(=O)(=O)C2=CC=CC=C2 | C30H39FN6O5SSi
reactant | disodium hydrogen phosphate | 9.71 mmol, 1.38 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 180 mmol, 7.5 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | sodium mercury amalgam | 9.71 mmol, 2.17 g | [Na].[Hg]
product | tert-butyl 3-(fluoromethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 120 mg, 49.2% | FCC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H35FN6O3Si
